US07514470B2
B. Methyl N-(3,4-dicyanophenyl)-N-(2,2,2-trifluoroethyl)glycinate
A solution of 4-[(2,2,2-trifluoroethyl)amino]-1,2-benzenedicarbonitrile (0.020 g, 0.089 mmol) in MeCN (3 mL) was treated with Cs2CO3 (0.078 g, 0.24 mmol) and methyl bromoacetate (0.037 g, 0.24 mmol) and heated at 85° C. under nitrogen for 8 h. Upon cooling, the mixture was partitioned between EtOAc and water. The organic phase was washed with brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (20-100% CH2Cl2-hexanes gradient) and the product crystallized from CH2Cl2-hexanes to give 0.015 g (58% yield) of the title compound as a white solid: MS (ES) m/z 296 (M−1).

reactant | 4-[(2,2,2-trifluoroethyl)amino]-1,2-benzenedicarbonitrile | 0.089 mmol, 0.020 g | FC(CNC=1C=C(C(=CC1)C#N)C#N)(F)F | C10H6F3N3
reactant | Cs2CO3 | 0.24 mmol, 0.078 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl bromoacetate | 0.24 mmol, 0.037 g | BrCC(=O)OC | C3H5BrO2
solvent | MeCN | 3 mL | CC#N | C2H3N
product | Methyl N-(3,4-dicyanophenyl)-N-(2,2,2-trifluoroethyl)glycinate | 0.015 g, 58% yield | C(#N)C=1C=C(C=CC1C#N)N(CC(=O)OC)CC(F)(F)F | C13H10F3N3O2
